US04230711
EXAMPLE 4--Preparation of N-(1,1,2,2-tetrachloroethylthio)-4,4-dimethyl homophthalimide
To a 200-ml methylene solution of 4,4-dimethylhomophthalimide (33.5 g) and 1,1,2,2-tetrachloroethyl sulfenyl chloride (42.2 g) at 0° C. was added dropwise 18.2 g triethylamine over 5 minutes. The mixture was stirred for 4 hours, washed with 200 ml water and dried (MgSO4). The solvent was evaporated and a brown oil was recovered, recrystallized in ethanol to yield 54 g (78%) tan solid, m.p. 112°-113° C.

reactant | 4,4-dimethylhomophthalimide | 33.5 g | CC1(CC2=C(CC(=O)NC2=O)C=C1)C | C11H13NO2
reactant | 1,1,2,2-tetrachloroethyl sulfenyl chloride | 42.2 g | ClC(C(Cl)Cl)(SCl)Cl | C2HCl5S
solvent | triethylamine | 18.2 g | C(C)N(CC)CC | C6H15N
product | N-(1,1,2,2-tetrachloroethylthio)-4,4-dimethyl homophthalimide | 54 g, 78% | ClC(C(Cl)Cl)(SN1C(CC2=C(C1=O)CC(C=C2)(C)C)=O)Cl | C13H13Cl4NO2S
